US06818658B2
Step A: Preparation of N-Tert-Butyl-N-(Trimethylsilylmethyl)Amine (N-1)
A mixture of tert-butylamine (18.0 mL, 171 mmol) and (chloromethyl)trimethylsilane (7.00 g, 57.1 mmol) was heated in a thick-walled glass tube at 200° C. overnight. After cooling to ambient temperature, the reaction mixture was poured into 1 N NaOH and extracted three times with diethyl ether. The combined organic extracts were washed with brine, dried (MgSO4), and the volatiles evaporated in vacuo. Distillation (atmospheric pressure; ˜135° C.) of the residual liquid gave the title compound as a colorless liquid (7.67 g).

reactant | tert-butylamine | 171 mmol, 18.0 mL | C(C)(C)(C)N | C4H11N
reactant | (chloromethyl)trimethylsilane | 57.1 mmol, 7.00 g | ClC[Si](C)(C)C | C4H11ClSi
reactant | NaOH | 1 N | [OH-].[Na+]
product | N-Tert-Butyl-N-(Trimethylsilylmethyl)Amine | 7.67 g | C(C)(C)(C)NC[Si](C)(C)C | C8H21NSi
